US04898867
A 1.2 g quantity of 3-hexyl-5,6,7,8-tetrahydrobenzothieno[2,3-d]pyrimidin-2,4(1H,3H)-dione (Compound III-9), 0.14 g of 50% sodium hydride and 1.0 g of ethyl bromoacetate were allowed to react with each other in the same manner as in Reference Example 5. The residue obtained by concentration was subjected to silica gel column chromatography using chloroform as an eluent. Then 1.2 g of 1-ethoxycarbonylmethyl-3-hexyl-5,6,7,8-tetrahydrobenzothieno[2,3-d]pyrimidin-2,4(1H,3H)-dione was obtained in a yield of 77%.

reactant | 3-hexyl-5,6,7,8-tetrahydrobenzothieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | C(CCCCC)N1C(NC2=C(C1=O)C1=C(S2)CCCC1)=O | C16H22N2O2S
reactant | sodium hydride | 0.14 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.0 g | BrCC(=O)OCC | C4H7BrO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-ethoxycarbonylmethyl-3-hexyl-5,6,7,8-tetrahydrobenzothieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 1.2 g, yield of 77% | C(C)OC(=O)CN1C(N(C(C2=C1SC1=C2CCCC1)=O)CCCCCC)=O | C20H28N2O4S
